US07662972B2
2-Cyano-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2-pyridylmethyl)benzoic acid amide (Compound of the Present Invention No. 5-341)
In a solution of 0.19 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-iodo-N-(2-pyridylmethyl)benzoic acid amide (Compound of the present invention No. 5-065) synthesized similarly to Synthetic Example 4 in 10 ml of dimethylacetamide, 36.0 mg of zinc cyanide, 4.8 mg of zinc, 11.0 mg of tris(dibenzylideneacetone) dipalladium and 13.5 mg of 1,1′-bis(diphenylphosphino)ferrocene were added, and stirred under nitrogen atmosphere at 80 to 120° C. for 5 hours. After the completion of the reaction, 30 ml of ammonia water and 20 ml of water were added in the reaction mixture, and extracted with ethyl acetate (50 ml×1). The organic phase was washed with 30 ml of water, dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethylacetate-hexane (2:1), and 0.05 g of the aimed product was obtained as brown resinous substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-iodo-N-(2-pyridylmethyl)benzoic acid amide | 0.19 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NCC2=NC=CC=C2)C=C1)I)C(F)(F)F | C23H15Cl2F3IN3O2
reactant | ammonia water | 30 ml | O.N
reactant | water | 20 ml | O | H2O
reactant | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
catalyst | zinc cyanide | 36.0 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 4.8 mg | [Zn] | Zn
catalyst | tris(dibenzylideneacetone) dipalladium | 11.0 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 13.5 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-Cyano-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2-pyridylmethyl)benzoic acid amide | 0.05 g | C(#N)C1=C(C(=O)NCC2=NC=CC=C2)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C24H15Cl2F3N4O2
